US05238958
A solution of 3-hydroxy-4-methylbenzoate (5.55 g, 33 mmol) from Preparation 12, tert-butyldimethylsilyl chloride (7.6 g, 50 mmol), and triethylamine (14 mL, 100 mmol) in 50 mL CH2Cl2 is stirred at room temperature for 24 hours. An additional 25 mL of CH2Cl2 is added and washed with water. The organic layer is dried (MgSO4) and concentrated. The product is isolated by silica gel chromatography (100% CH2Cl2). An oil of methyl 3- [[(1,1-dimethylethyl)-dimethylsilyl]oxy]-4-methylbenzoate is obtained (9.05 g, 97%).

reactant | 3-hydroxy-4-methylbenzoate | 33 mmol, 5.55 g | OC=1C=C(C(=O)[O-])C=CC1C
reactant | tert-butyldimethylsilyl chloride | 50 mmol, 7.6 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 100 mmol, 14 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | methyl 3- [[(1,1-dimethylethyl)-dimethylsilyl]oxy]-4-methylbenzoate | CC(C)(C)[Si](OC=1C=C(C(=O)OC)C=CC1C)(C)C | C15H24O3Si
